US05734051
1,3-Di-cyclopropylmethyl-8-morpholino Xanthine
1,3-Di-cyclopropylmethyl-8-morpholino xanthine was prepared from 1,3-di-cyclopropylmethyl-8-chloroxanthine (0.3 g, 0.001 mol) and morpholine (0.2 g, 0.0022 mol) using an analogous procedure to that described in Example 19. The title product was obtained as a crystalline solid, m.pt. >250° C., yield 0.09 g (26%).

reactant | 1,3-di-cyclopropylmethyl-8-chloroxanthine | 0.001 mol, 0.3 g | C1(CC1)CN1C(=O)N(C=2N=C(NC2C1=O)Cl)CC1CC1 | C13H15ClN4O2
reactant | morpholine | 0.0022 mol, 0.2 g | N1CCOCC1 | C4H9NO
product | 1,3-Di-cyclopropylmethyl-8-morpholino Xanthine | C1(CC1)CN1C(=O)N(C=2N=C(NC2C1=O)N1CCOCC1)CC1CC1 | C17H23N5O3
